US06002008
4-[(3-Bromophenyl)-N-acetylamino]-6,7-dihydroxy-3-quinolinecarbonitrile
A solution of 4-(3-bromophenylamino)-6,7-dihydroxy-3-quinolinecarbonitrile (1.78 g, 5.0 mmol), dimethylaminopyridine (60 mg, 0.50 mmol), 5.0 ml of acetic anhydride, and 10 ml of pyridine was stirred at reflux temperature for 1.5 h and concentrated to dryness. The residue was stirred with 50 ml of methanol, 5 ml of water, and sodium bicarbonate (2.1 g, 25 mmol) at 25° C. for 16 h and concentrated to dryness. The residue was stirred with water containing acetic acid to give pH-4-5, and the resulting solid was filtered off, washed with water, and dried. A solution of the resulting solid in THF was passed through a pad of silica gel; the filtrate was concentrated to give a tan solid; mass spectrum (electrospray, m/e) M-H 396.3, 398.3.

reactant | 4-(3-bromophenylamino)-6,7-dihydroxy-3-quinolinecarbonitrile | 5.0 mmol, 1.78 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)O)O)C#N | C16H10BrN3O2
reactant | dimethylaminopyridine | 0.50 mmol, 60 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 5.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | 25 mmol, 2.1 g | C([O-])(O)=O.[Na+]
solvent | water | 5 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-[(3-Bromophenyl)-N-acetylamino]-6,7-dihydroxy-3-quinolinecarbonitrile | BrC=1C=C(C=CC1)N(C(C)=O)C1=C(C=NC2=CC(=C(C=C12)O)O)C#N | C18H12BrN3O3
